US04511573
To a suspension of 16 g of 50% sodium hydride in 450 ml of ether is added dropwise 92.2 g of diethyl suberate and 27.3 ml (30.2 g) of ethyl nicotinate at room temperature, under nitrogen. The reaction mixture is heated at reflux temperature overnight, and, after cooling, 400 ml of ice water is added. The ether layer is separated (discarded) and the aqueous adjusted to pH 5 with 1N hydrochloric acid and extracted with ether (3×250 ml). The ether layer is dried and concentrated to give ethyl 7-ethoxycarbonyl-7-nicotinoylheptanoate as an oil. A solution of this ester in 300 ml of 1M sulfuric acid is heated for 12 hours at reflux temperature. The reaction solution is cooled by an ice bath and adjusted to pH=4.5-5.0 with saturated sodium bicarbonate solution. A white solid is collected and, after washing with water and air-drying, is recrystallized from ethanol to give 7-nicotinoylheptanoic acid, m.p. 113°-115°.

reactant | sodium hydride | 16 g | [H-].[Na+]
reactant | diethyl suberate | 92.2 g | C(CCCCCCC(=O)OCC)(=O)OCC | C12H22O4
reactant | ethyl nicotinate | 27.3 ml, 30.2 g | C(C1=CN=CC=C1)(=O)OCC | C8H9NO2
solvent | ether | 450 ml | CCOCC | C4H10O
product | ethyl 7-ethoxycarbonyl-7-nicotinoylheptanoate | C(C)OC(=O)C(CCCCCC(=O)OCC)C(C1=CN=CC=C1)=O | C18H25NO5
